data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_205954_1,[C:1]([C:4](/[C:3](=[C:2](\[N:6]([H:12])[H:13])[O:8][N:5]([H:10])[H:11])[N:7]([H:14])[H:15])=[O:9])([H:16])([H:17])[H:18]>>[C:1]([C:4](/[C:2](=[C:3](\[N:7]([H:14])[H:15])[O:8][N:5]([H:10])[H:11])[N:6]([H:12])[H:13])=[O:9])([H:16])([H:17])[H:18],60.812279999984185
MR_320244_2,[C:1]1([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])[C:4]([N:5]([H:10])[H:11])([N:6]([H:12])[H:13])[N:8]1[O:7][H:9]>>[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])(/[C:4]([N:6]([H:12])[H:13])=[N:8]/[O:7][H:9])[N:5]([H:10])[H:11],68.77337250000181
MR_668427_0,[C:1]([C:4]([N:2]([N:7]=[O:8])[H:11])=[C:3]([O:5][H:9])[O:6][H:10])([H:12])([H:13])[H:14]>>[C:1]([C@@:4]1([N:7]=[O:8])[N:2]([H:11])[C:3]1([O:5][H:9])[O:6][H:10])([H:12])([H:13])[H:14],71.70505250001924
MR_85234_0,[C:1](/[N:6]=[C:4](\[C:2]([H:12])([H:13])[H:14])[N:3]([O:5][H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1]([N:6](/[C:4]([C:2]([H:12])([H:13])[H:14])=[N:3]\[O:5][H:7])[H:8])([H:9])([H:10])[H:11],47.27835999998291
MR_197988_1,[C:1](/[C:4]([C:2]([H:12])([H:13])[H:14])=[C:6](/[C:3]([H:15])([H:16])[H:17])[H:11])([C:5](=[O:7])[H:8])([H:9])[H:10]>>[C:1](=[C:4]([C:2]([H:12])([H:13])[H:14])[C:6]([C:3]([H:15])([H:16])[H:17])([C:5](=[O:7])[H:8])[H:11])([H:9])[H:10],59.53406250003681
MR_199038_1,[C:1](/[C:4]([N:3](/[C:6](=[C:7](\[N:5]([H:10])[H:11])[H:13])[H:12])[H:9])=[C:8](/[C:2]([H:18])([H:19])[H:20])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:4]1([C:8](=[C:2]([H:18])[H:19])[H:14])[N:3]([H:9])[C:6]1([C:7]([N:5]([H:10])[H:11])([H:13])[H:20])[H:12])([H:15])([H:16])[H:17],54.70168499996717
MR_125897_0,[C:1]([C:4]([C:2]([C:3]([O:7][H:20])([H:11])[H:12])([O:8][H:9])[H:10])([H:13])[H:14])([C:5]([H:15])([H:17])[H:18])=[C:6]([H:16])[H:19]>>[C:1]1([C:5]([H:15])([H:17])[H:18])([C:6]([H:16])([H:19])[H:20])[C:4]([H:13])([H:14])[C:2]([O:8][H:9])([H:10])[C:3]([H:11])([H:12])[O:7]1,52.03731999998823
MR_170130_1,[C:1]1([C:3]([C:6]([H:19])([H:20])[H:21])([H:11])[H:12])([H:9])[C:2]([N:7]([C:4]([H:13])([H:15])[H:16])[C:5]([H:14])([H:17])[H:18])([H:10])[O:8]1>>[C:1]([C:2](=[O:8])[H:10])([C:3]([C:6]([H:19])([H:20])[H:21])([H:11])[H:12])([N:7]([C:4]([H:13])([H:15])[H:16])[C:5]([H:14])([H:17])[H:18])[H:9],47.72388499999949
MR_118716_2,[C:1](=[N:4][C:2]([C:6]([N:5]([C:3]([H:16])([H:17])[H:18])[H:9])([N:7]([H:8])[H:10])[H:15])([H:13])[H:14])([H:11])[H:12]>>[C:1]([N:4]([C:2](/[C:6](=[N:7]/[H:10])[H:15])([H:13])[H:14])[H:8])([N:5]([C:3]([H:16])([H:17])[H:18])[H:9])([H:11])[H:12],52.2067449999885
MR_114637_2,[C:1]1([N:3]([H:6])[H:7])([N:4]([H:8])[H:9])[C:2]([H:10])([H:11])[O:5]1>>[C:1](\[C:2]([O:5][H:9])([H:10])[H:11])([N:3]([H:6])[H:7])=[N:4]/[H:8],8.820767499987312
MR_18970_0,[C:1](/[C:4]([C:6](=[C:5]([C:2]([H:14])([H:15])[H:16])[C:3]([H:13])([H:17])[H:18])[H:9])=[N:7]/[H:8])([H:10])([H:11])[H:12]>>[C:1]([C:4]1=[C:6]([H:9])[C:5]([C:2]([H:14])([H:15])[H:16])([C:3]([H:13])([H:17])[H:18])[N:7]1[H:8])([H:10])([H:11])[H:12],45.0777174999746
MR_660893_2,[C:1]([C:2]([C:4]([H:17])([H:18])[H:19])([O:7][H:9])[H:10])([C:3]([H:14])([H:15])[H:16])([N:5]([H:11])[H:12])[C:6](=[O:8])[H:13]>>[C:1]([C:2](=[O:7])[H:10])([C:3]([H:14])([H:15])[H:16])([N:5]([H:11])[H:12])[C:6]([C:4]([H:17])([H:18])[H:19])([O:8][H:9])[H:13],66.58904499998798
MR_56393_0,[C:1](/[C:8](=[C:3]([C:2](\[N:4]([H:9])[H:10])=[C:7](\[N:6]([H:13])[H:14])[H:15])/[N:5]([H:11])[H:12])[H:16])([H:17])([H:18])[H:19]>>[C:1]([C:8]1([H:16])[C:3]([N:5]([H:11])[H:12])=[C:2]([N:4]([H:9])[H:10])[C:7]1([N:6]([H:13])[H:14])[H:15])([H:17])([H:18])[H:19],33.991674999999475
MR_85965_1,[C:1]1([H:10])([H:11])[C:3](=[C:6]([H:13])[H:14])[C:5]1([C:2]([N:4]([H:8])[H:9])=[O:7])[H:12]>>[C:1]1([H:10])([H:11])[C:3](=[C:6]([H:13])[H:14])[O:7][C:2]([N:4]([H:8])[H:9])=[C:5]1[H:12],53.55273250001446
MR_574663_1,[C:1]([N:5]([C:2]([H:11])([H:14])[H:15])[N:4]([C:6]([C:3]([H:16])([H:17])[H:18])=[O:8])[O:7][H:9])([H:10])([H:12])[H:13]>>[C:1]([N:5]([C:2]([H:11])([H:14])[H:15])[O:8]/[C:6]([C:3]([H:16])([H:17])[H:18])=[N:4]/[O:7][H:9])([H:10])([H:12])[H:13],73.10061249999137
MR_188623_1,[C:1]([C:3](/[C:6](=[C:7](\[C:2]([N:5]([H:11])[H:21])([H:15])[H:16])[N:8]([H:13])[H:14])[O:9][H:10])([H:17])[H:18])(=[C:4]([H:19])[H:20])[H:12]>>[C:1]1([C:4]([H:19])([H:20])[H:21])([H:12])[C:3]([H:17])([H:18])[C:6]([O:9][H:10])=[C:7]([N:8]([H:13])[H:14])[C:2]([H:15])([H:16])[N:5]1[H:11],55.594617499995564
MR_395077_0,[C:1]1([H:9])([H:10])[N:5]([H:8])[N:4]([C:2]([H:12])([H:13])[H:14])[C:6]([C:3]([H:15])([H:16])[H:17])=[C:7]1[H:11]>>[C:1]1([H:9])([H:10])[N:5]([H:8])[C:7]1(/[C:6]([C:3]([H:15])([H:16])[H:17])=[N:4]/[C:2]([H:12])([H:13])[H:14])[H:11],57.83291000001583
MR_570907_2,[C:1]1([C:2]([O:5][H:7])([H:10])[H:11])([H:9])[N:3]([H:8])[C:4]1=[O:6]>>[C:1](=[N:3]\[H:8])(\[C:4]([C:2]([O:5][H:7])([H:10])[H:11])=[O:6])[H:9],50.28157499999807
